US07579473B2
(6,7-Dimethoxy-quinazolin-4-yl)-(2-fluoro-4-nitro-phenyl)-amine (673 mg, 1.95 mmol) was dissolved in a combination of DMF (20 ml) and MeOH (20 ml), to which was added 10% Pd/C (227 mg). The mixture was shaken under an atmosphere of H2 on a Parr hydrogenator at 40 psi for 3 hrs. The reaction mixture was filtered through celite and the filtrate concentrated in vacuo. The resulting residue was triturated in EtOAc/Et2O. The resulting solids were filtered, washed with Et2O, and dried under vacuum to give N1-(6,7-dimethoxy-quinazolin-4-yl)-2-fluoro-benzene-1,4-diamine (398 mg, 65%) which was used in the next reaction without further purification. 1H-NMR (400 MHz, DMSO): 10.80 (br s, 1H), 10.30 (br s, 1H), 8.63 (s, 1H), 8.15 (s, 1H), 7.33 (s, 1H), 7.15 (m, 1H), 6.45 (m, 1H), 3.96 (s, 6H). LC/MS Calcd for [M+H]+ 315.1, found 315.4.

reactant | (6,7-Dimethoxy-quinazolin-4-yl)-(2-fluoro-4-nitro-phenyl)-amine | 1.95 mmol, 673 mg | COC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C=C(C=C1)[N+](=O)[O-])F | C16H13FN4O4
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | MeOH | 20 ml | CO | CH4O
catalyst | Pd/C | 227 mg | [Pd] | Pd
product | N1-(6,7-dimethoxy-quinazolin-4-yl)-2-fluoro-benzene-1,4-diamine | 398 mg, 65% | COC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C=C(C=C1)N)F | C16H15FN4O2
